US07504412B2
5-Phenylpyrimidine-2-carboxylic acid
Conducting the operations similar to those of Production Example 14 using 5-bromopyrimidine-2-carboxylic acid and phenylboronic acid, the title compound was obtained as white solid.

reactant | 5-bromopyrimidine-2-carboxylic acid | BrC=1C=NC(=NC1)C(=O)O | C5H3BrN2O2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 5-Phenylpyrimidine-2-carboxylic acid | C1(=CC=CC=C1)C=1C=NC(=NC1)C(=O)O | C11H8N2O2
